### ISSUE TITLE
🚀 ThinkFreeCoins Challenge: Quantum Physics Entanglement Proof - 150 TFC Reward

### ISSUE THREAD

**Issue by dirkenglund** [dirkenglund/photonic-multi-agent-system#14]
# 🚀 ThinkFreeCoins Challenge: Quantum Physics Entanglement

## Challenge Details
**Base Reward**: 150 ThinkFreeCoins ($150 USD)  
**Time-Based Rewards**:
- 🏃‍♂️ **10 TFC** if solved within 24 hours  
- 🚶‍♂️ **5 TFC** if solved within 7 days  
- ❌ **0 TFC** after 7 days  

**Difficulty**: Intermediate  
**Field**: Quantum Physics & Linear Algebra
**Time Estimate**: 15-30 minutes  
**Status**: 🔴 **OPEN** - Looking for solver!

## ⏰ Time Remaining
- **24-hour fast solve deadline**: ~23 hours remaining
- **7-day standard deadline**: ~7 days remaining

## Your Task
Complete these quantum entanglement proofs using Lean 4:

```lean
import Mathlib.LinearAlgebra.Matrix.Basic
import Mathlib.Data.Complex.Basic
import Mathlib.LinearAlgebra.TensorProduct.Basic

-- Define quantum state space (2-qubit system)
def QubitState := Fin 2 → ℂ
def TwoQubitState := QubitState ⊗[ℂ] QubitState

-- Bell states (maximally entangled states)
def bell_state_00 : TwoQubitState := sorry -- |00⟩ + |11⟩ (normalized)
def bell_state_01 : TwoQubitState := sorry -- |01⟩ + |10⟩ (normalized)

-- CHALLENGE 1: Prove Bell states are normalized
theorem bell_state_normalized : 
  ⟨bell_state_00, bell_state_00⟩ = 1 := by
  sorry -- YOUR TASK: Prove this normalization

-- CHALLENGE 2: Prove entanglement (not separable)
theorem bell_state_entangled :
  ¬∃ (ψ φ : QubitState), bell_state_00 = ψ ⊗ₜ φ := by
  sorry -- YOUR TASK: Show Bell states cannot be written as tensor products

-- CHALLENGE 3: Prove unitary evolution preserves entanglement
theorem unitary_preserves_entanglement 
  (U : Matrix (Fin 4) (Fin 4) ℂ) (hU : U.IsUnitary) :
  ∀ (ψ : TwoQubitState), 
  (¬∃ (ψ₁ ψ₂ : QubitState), ψ = ψ₁ ⊗ₜ ψ₂) →
  (¬∃ (φ₁ φ₂ : QubitState), (U.mulVec ψ) = φ₁ ⊗ₜ φ₂) := by
  sorry -- YOUR TASK: Prove unitary operations preserve entanglement
```

## How to Submit
1. Complete the definitions for `bell_state_00` and `bell_state_01`
2. Prove all three theorems without `sorry`
3. Comment `/verify` with your completed proof

## Mathematical Background
- **Bell States**: Maximally entangled quantum states
- **Tensor Products**: Mathematical structure for composite quantum systems  
- **Unitary Matrices**: Quantum evolution operators that preserve probability
- **Entanglement**: Non-classical correlations that cannot be explained classically

## Success Criteria ✅
- All definitions must be mathematically correct
- All three theorems must compile and be proven
- Use Mathlib's linear algebra and complex number libraries
- No `sorry` statements allowed

## Time-Based Rewards 🎯
- **First 24 hours**: 10 TFC (fast solve bonus!)
- **Days 2-7**: 5 TFC (standard reward)  
- **After 7 days**: 0 TFC (challenge expires)

**Ready to formalize quantum mechanics? Earn up to 10 ThinkFreeCoins!** ⚛️

**Comment by dirkenglund** [comment]
Closing legacy issue - system rebuilt with production LEAN4 contract system
